data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_548251_2,[C:1](=[C:3](/[N:5]([H:14])[H:15])[C:7]([C:2]([O:8][H:10])=[O:9])([N:6]([H:16])[H:17])[H:18])(\[N:4]([H:12])[H:13])[H:11]>>[C:1]1([N:4]([H:12])[H:13])([H:11])[C:3]([C:2]([O:8][H:10])=[O:9])([N:5]([H:14])[H:15])[C:7]1([N:6]([H:16])[H:17])[H:18],51.584264999990666
MR_38574_1,[C:1]([O:7][N:4]([C:2]([H:14])([H:15])[H:16])/[C:5](=[C:6](/[C:3]([H:17])([H:18])[H:19])[H:10])[O:8][H:9])([H:11])([H:12])[H:13]>>[C:1]([O:7][C:6]([C:3]([H:17])([H:18])[H:19])(/[C:5](=[N:4]\[C:2]([H:14])([H:15])[H:16])[O:8][H:9])[H:10])([H:11])([H:12])[H:13],36.87378249999938
MR_330939_1,[C:1]([C:5]([N:4]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])=[O:9])([O:6][H:10])([O:7][H:11])[O:8][H:12]>>[C:1]([C:5]([N:4]([C:2]([H:13])([H:14])[H:15])[C:3]([H:16])([H:17])[H:18])([O:8][H:12])[O:9][H:10])(=[O:6])[O:7][H:11],33.81095500009906
MR_658879_2,[C:1]([N:3]([C:2]([H:12])([H:13])[H:14])[C:4](=[O:7])[H:11])([O:5][H:8])([O:6][H:9])[H:10]>>[C:1]([O:5][H:8])([O:6][H:9])([O:7]/[C:4](=[N:3]\[C:2]([H:12])([H:13])[H:14])[H:11])[H:10],52.62089500001295
MR_267150_2,[C:1]([C:2]([H:14])([H:15])[H:16])(/[C:4]([N:3]([N:5]([H:11])[H:12])[H:9])=[N:7]/[H:13])([O:6][H:8])[H:10]>>[C:1]([N:3]([N:5]([H:11])[H:12])[H:9])(/[C:4]([C:2]([H:14])([H:15])[H:16])=[N:7]\[H:13])([O:6][H:8])[H:10],43.56858000000386
MR_240087_1,[C:1]([C:4]([N:3]([N:5]([H:13])[H:14])[H:12])=[O:9])([O:6][C:2]([H:15])([H:16])[H:17])([O:7][H:10])[O:8][H:11]>>[C:1]([N:3]([N:5]([H:13])[H:14])[H:12])([C:4]([O:6][C:2]([H:15])([H:16])[H:17])=[O:9])([O:7][H:10])[O:8][H:11],51.49892499995645
MR_205227_0,[C:1]1([H:9])([H:10])[C@@:3]([O:7][C:2]([O:5][H:8])=[O:6])([H:11])[O:4]1>>[C:1]([C:2]([O:5][H:8])=[O:6])([O:4][C:3](=[O:7])[H:11])([H:9])[H:10],58.53131750003598
MR_266662_0,[C:1]([N:3]([C:4]([O:8][H:10])=[O:9])/[C:5]([N:6]([H:11])[H:12])=[C:7](\[C:2]([H:17])([H:18])[H:19])[H:13])([H:14])([H:15])[H:16]>>[C:1](/[N:3]=[C:5](\[N:6]([H:11])[H:12])[C:7]([C:2]([H:17])([H:18])[H:19])([C:4]([O:8][H:10])=[O:9])[H:13])([H:14])([H:15])[H:16],46.22792499999548
MR_435587_1,[C:1]1([H:12])([H:13])[C:3](=[O:8])[O:6][N:7]1/[C:4](=[N:2]/[H:9])[N:5]([H:10])[H:11]>>[C:1]1([H:12])([H:13])[N:2]([H:9])[C:4]([N:5]([H:10])[H:11])=[N:7][O:6][C:3]1=[O:8],61.49876499999877
MR_542640_2,[C@@:1]([C:2]([C:5]([H:19])([H:20])[H:21])([H:11])[H:12])([C:4]([H:16])([H:17])[H:18])([N:6]([O:7][C:3]([H:13])([H:14])[H:15])[H:10])[O:8][H:9]>>[C@:1]([C:4]([H:16])([H:17])[H:18])([N:6]([C:2]([C:5]([H:19])([H:20])[H:21])([H:11])[H:12])[H:10])([O:7][C:3]([H:13])([H:14])[H:15])[O:8][H:9],67.84090750000189
MR_482533_1,[C:1]([C:2]([H:13])([H:14])[H:15])([O:6][H:10])(/[N:7]=[C:4](\[C:3]([O:5][H:9])=[O:8])[H:12])[H:11]>>[C:1](=[O:6])(/[N:7]=[C:4](\[C:3]([C:2]([H:13])([H:14])[H:15])([O:5][H:9])[O:8][H:10])[H:12])[H:11],69.35694749999087
MR_83310_1,[C:1](/[C:4](=[C:3](/[O:5][C:2]([O:6][H:8])=[O:7])[H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([C:4]([C:2]([O:6][H:8])=[O:7])([C:3](=[O:5])[H:9])[H:10])([H:11])([H:12])[H:13],59.06280999994252
MR_683943_1,[C:1]([C:3]([C:2]([N:4]([H:14])[H:15])([N:5]([H:16])[H:17])[H:13])([O:8][H:12])[O:9][H:10])(=[O:6])[O:7][H:11]>>[C:1]1([O:6][H:10])([O:7][H:11])[C:3]([C:2]([N:4]([H:14])[H:15])([N:5]([H:16])[H:17])[H:13])([O:8][H:12])[O:9]1,45.50002499990711
MR_626581_0,[C:1](/[C:3]([N:5]([H:12])[H:13])=[N:8]\[C:2]([N:4]([H:10])[H:11])=[N:7]/[O:6][H:9])([H:14])([H:15])[H:16]>>[C:1]([C:3]1([N:5]([H:12])[H:13])[N:7]([O:6][H:9])[C:2]([N:4]([H:10])[H:11])=[N:8]1)([H:14])([H:15])[H:16],43.76937999999626
MR_310988_1,[C:1]1([C:3]([H:13])([H:14])[H:15])([N:5](/[C:6](=[N:8]\[C:4]([H:16])([H:17])[H:18])[H:12])[H:9])[C:2]([H:10])([H:11])[O:7]1>>[C@:1]1([C:3]([H:13])([H:14])[H:15])([N:5](/[C:6](=[N:8]\[C:4]([H:16])([H:17])[H:18])[H:12])[H:9])[C:2]([H:10])([H:11])[O:7]1,63.9284450000352
MR_212102_1,[C:1]1([C:3]([H:15])([H:16])[H:17])([O:8][H:10])[C:5]([N:6]([H:13])[H:14])([O:9][H:11])[C:2]([C:4]([H:18])([H:19])[H:20])([H:12])[O:7]1>>[C:1]([C:3]([H:15])([H:16])[H:17])([O:7][C:2]([C:4]([H:18])([H:19])[H:20])([C:5]([N:6]([H:13])[H:14])=[O:9])[H:12])([O:8][H:10])[H:11],57.56433999998052
MR_381736_1,[C:1](/[C:6](=[C:3](\[N:4]([H:11])[H:12])[C:5](=[C:2]([O:7][H:9])[O:8][H:10])[H:13])[H:14])([H:15])([H:16])[H:17]>>[C:1]([C@:6]1([H:14])[C:2]([O:7][H:9])([O:8][H:10])[C:5]([H:13])=[C:3]1[N:4]([H:11])[H:12])([H:15])([H:16])[H:17],38.23671249994689
MR_457050_0,[C:1]1([N:4]([H:8])[H:9])([O:7][C:2]([C:3]([H:12])([H:13])[H:14])([H:10])[H:11])[O:5][O:6]1>>[C:1]1([N:4]([H:8])[H:9])([O:5][O:6][H:11])[C:2]([C:3]([H:12])([H:13])[H:14])([H:10])[O:7]1,56.37146249999603
MR_351973_2,[C@@:1]1([C:3]([H:18])([H:19])[H:20])([N:6]([H:11])[H:12])[C@:5]([C:2]([O:9][H:10])([H:15])[H:16])([C:4]([H:21])([H:22])[H:23])[C@@:8]1([N:7]([H:13])[H:14])[H:17]>>[C:1]([C:2]([O:9][H:10])([H:15])[H:16])([C:3]([H:18])([H:19])[H:20])(/[C:5]([C:4]([H:21])([H:22])[H:23])=[C:8](/[N:7]([H:13])[H:14])[H:17])[N:6]([H:11])[H:12],65.74631250001119
